US06124300
7-[2-Bromo-6-methoxy-4-(1-methylethyl)phenoxy]-5-methyl-3-(1-propylbutyl)-3H-1,2,3-triazolo[4,5-d]pyrimidine
Platinum black, 5% (0.19 g) was added to a solution of 7-[2-bromo-6-methoxy-4-(1-methylethenyl)phenoxy]-5-methyl-3-(1-propylbutyl)-3H-1,2,3-triazolo[4, 5-d]pyrimidine (0.17 g) in 50 mL of ethanol. The mixture was hydrogenated at a pressure of 40 psi for 18 hours and filtered through celite. The filtrate was stripped of the solvent under reduced pressure and the residue recrystallized from hexane to yield the title compound as a colorless crystalline solid, mp 129-131° C.

reactant | 7-[2-bromo-6-methoxy-4-(1-methylethenyl)phenoxy]-5-methyl-3-(1-propylbutyl)-3H-1,2,3-triazolo[4, 5-d]pyrimidine | 0.17 g | BrC1=C(OC=2C3=C(N=C(N2)C)N(N=N3)C(CCC)CCC)C(=CC(=C1)C(=C)C)OC | C22H28BrN5O2
solvent | ethanol | 50 mL | C(C)O | C2H6O
catalyst | Platinum black | [Pt] | Pt
product | 7-[2-Bromo-6-methoxy-4-(1-methylethyl)phenoxy]-5-methyl-3-(1-propylbutyl)-3H-1,2,3-triazolo[4,5-d]pyrimidine | BrC1=C(OC=2C3=C(N=C(N2)C)N(N=N3)C(CCC)CCC)C(=CC(=C1)C(C)C)OC | C22H30BrN5O2
